US05185334
1-BROMOETHYL-4-[(1,1-DIMETHYLETHYL)DIMETHYL SILYL]OXYMETHYLBENZENE
Stir 1-bromomethyl-4-hydroxymethyl benzene (20.75 g) in CH2Cl2 (300 ml) with diisopropylethylamine (14.01 g) at 18° C., and add a solution of t-butyl dimethylsilyl chloride (16.34 g) in CH2Cl2 (100 ml). Stir for one half hour at room temperature, then reflux for 19 hours under a N2 atmosphere. Monitor reaction progress by TLC.

reactant | 1-bromomethyl-4-hydroxymethyl benzene | 20.75 g | BrCC1=CC=C(C=C1)CO | C8H9BrO
reactant | diisopropylethylamine | 14.01 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | t-butyl dimethylsilyl chloride | 16.34 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-BROMOETHYL-4-[(1,1-DIMETHYLETHYL)DIMETHYL SILYL]OXYMETHYLBENZENE | BrC(C)C1=CC=C(C=C1)CO[Si](C)(C)C(C)(C)C | C15H25BrOSi
